US07947683B2
methyl 3-thiophenecarboxylate
3-thiophenecarboxylic acid (2.0 g) was dissolved in MeOH (27 mL) and concentrated sulphuric acid (1.5 mL) was added. The reaction mixture was refluxed for 3 hours and 30 min., then concentrated under reduced pressure. A saturated NaHCO3 solution was added and the mixture was extracted with ethyl acetate. The organic phase was dried over Na2SO4 and concentrated in vacuo to give 1.98 g of the title compound as a colourless liquid which was used without further purification.

reactant | 3-thiophenecarboxylic acid | 2.0 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | sulphuric acid | 1.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 27 mL | CO | CH4O
product | methyl 3-thiophenecarboxylate | 1.98 g | S1C=C(C=C1)C(=O)OC | C6H6O2S
